US05723452
2-Fluoro-6-[(3 -methyl-5-methoxyphenyl)thio]benzonitrile
A solution of 1 g (0.005 mol) of 3-bromo-5-methoxytoluene in 10 mL of freshly distilled THF was cooled in dry ice/acetone and stirred under a N2 atmosphere. To this was added dropwise via a syringe 8.46 mL (0.011 mol) of sec-BuLi (1.3M in cyclohexane). The resultant mixture was stirred for 10 min after which 0.19 g of elemental sulfur was added in one portion. The reaction mixture was brought to room temperature and left stirring for 12 h. The mixture was cooled in ice/water bath. 0.69 g (0.005 mol) of 2,6-difluorobenzonitrile in 5 mL of dry DMSO was added. After sitting for 20 min, the mixture was poured into water (100 mL) and extracted with 3×50 mL of EtOAc. The EtOAc solution was washed with 1N NaOH, water, and dried over MgSO4Removal of EtOAc under vacuo resulted in a crude product which was chromatographed on silica gel (flash; EtOAc/Hexane 1:9). This resulted in 0.63 g (46%) of 2-fluoro-6-[(3-methyl-5-methoxyphenyl)thio]benzonitrile: mp 94°-95° C.; NMR (Me2SO-d6, 200 MHz) δ 2.28 (s, 3H), 3.7 (s, 3H), 6.8-7 (m, 4H), 7.34 (apparent d, 1H), 7.62 (dd, 1H). Anal. Calc. for C15H12NOSF: C, 65.92; H, 4.43; N, 5.12; S, 11.73. Found: C, 66.03; H, 4.49; N, 5.09; S, 11.8.

reactant | 3-bromo-5-methoxytoluene | 0.005 mol, 1 g | BrC=1C=C(C=C(C1)OC)C | C8H9BrO
reactant | sec-BuLi | 0.011 mol, 1.3M, 8.46 mL | [Li]C(C)CC
reactant | sulfur | 0.19 g | [S] | S
reactant | 2,6-difluorobenzonitrile | 0.005 mol, 0.69 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | water | 100 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-Fluoro-6-[(3 -methyl-5-methoxyphenyl)thio]benzonitrile | FC1=C(C#N)C(=CC=C1)SC1=CC(=CC(=C1)OC)C | C15H12FNOS
